### ISSUE TITLE
running PyPantograph in JupyterNotebook

### ISSUE THREAD

**Issue by RexWzh** [stanford-centaur/PyPantograph#92]
Hi, I'm having trouble running the PyPantograph [demo](https://github.com/stanford-centaur/PyPantograph/blob/main/docs/agent-search.ipynb). When I try this simple code in Jupyter:

```python
from pantograph import Server
server = Server()
```

But get the following error:

```python
---------------------------------------------------------------------------
RuntimeError                              Traceback (most recent call last)
Cell In[10], line 1
----> 1 Server()

File /opt/tiger/PyPantograph/pantograph/server.py:82, in Server.__init__(self, imports, project_path, lean_path, options, core_options, timeout, maxread, _sync_init)
     80 self.proc = None
     81 if _sync_init:
---> 82     self.restart()
     84 # List of goal states that should be garbage collected
     85 self.to_remove_goal_states = []

File /opt/tiger/PyPantograph/pantograph/utils.py:16, in to_sync.<locals>.wrapper(*args, **kwargs)
     14 @F.wraps(func)
     15 def wrapper(*args, **kwargs):
---> 16     return asyncio.run(func(*args, **kwargs))

File ~/miniconda/envs/lean/lib/python3.10/asyncio/runners.py:33, in run(main, debug)
      9 """Execute the coroutine and return the result.
     10 
     11 This function runs the passed coroutine, taking care of
   (...)
     30     asyncio.run(main())
     31 """
     32 if events._get_running_loop() is not None:
---> 33     raise RuntimeError(
     34         "asyncio.run() cannot be called from a running event loop")
     36 if not coroutines.iscoroutine(main):
     37     raise ValueError("a coroutine was expected, got {!r}".format(main))

RuntimeError: asyncio.run() cannot be called from a running event loop
```

Any tips on how to properly run this in Jupyter? Thanks a lot!

**Comment by lenianiva** [comment]
Take a look at https://github.com/stanford-centaur/PyPantograph/blob/main/docs/drafting.ipynb.

It seems like this async patch keeps creating problems

**Comment by RexWzh** [comment]
> Take a look at https://github.com/stanford-centaur/PyPantograph/blob/main/docs/drafting.ipynb.
> 
> It seems like this async patch keeps creating problems

Thanks for the reply, this fixes my issue.

---

I just got another problem when using the `open` command. The following code should raise an error, according to [Lean web](https://live.lean-lang.org/#codez=JYWwDg9gTgLgBAWQIYwBYBtgCMBQOC0+cArgHYDGEIIApqfDcGjVHBAGZzNth0DOccklJwkANwjAAJl1Q04LKNBwReIgEo0k6OCrVwAcihzNoNEAoDmABjgAuOHwCOsOACY4AHkcv4AZnsAXjgsAE9HaChQvFMocysARnsfVw9vTW0AOmdXALtgsIioKJwgA):
```lean
import Mathlib
-- uncomment either of the opens can avoid the error
open Real
open Nat
theorem eg0 : sqrt 2 < sqrt 3 := by sorry
theorem eg1 : sqrt 2 < Real.sqrt 3 := by sorry
```

But when I try it with PyPantograph:
```python
server = Server.create(imports=imports, project_path=project_path, lean_path=lean_path)
server.load_header('import Mathlib\nopen Nat Real')
# Expecting errors but works fine 
print(server.goal_start('sqrt 2 < sqrt 3'))
print(server.goal_start('sqrt 2 < Real.sqrt 3'))
```

And when I try the normal case, it errors out:
```python
server = Server.create(imports=imports, project_path=project_path, lean_path=lean_path)
server.load_header('import Mathlib\nopen Real')
print(server.load_sorry("theorem eg0 : sqrt 2 < sqrt 3 := by sorry"))
print(server.load_sorry('theorem eg1 : sqrt 2 < Real.sqrt 3 := by sorry'))
```

Am I missing something here? How can I get the expected behavior with `open` commands?

**Comment by lenianiva** [comment]
This happens because Pantograph supports catching ambiguities during elaboration. When `sqrt 2 < sqrt 3` is elaborated in this context, it generates the goal
```
sorry < sorry
```
A case could be made here that this should be prohibited. Or maybe I leave this to the user to decide in an option.

**Comment by RexWzh** [comment]
Thank you for the explanation! For examples like [amc12a_2020_p21](https://live.lean-lang.org/#codez=JYWwDg9gTgLgBAWQIYwBYBtgCMBQEwCmAdnAHIo45oHQEhxIgDGAjAExID6bADL52DYs4ACgDKcAFxwAYsCIBnAvECohAEoco1IACCKXEAARHBLSVAGiNxAEERwJgFMI4AVjiBiIguByIjIoAdOib0HAIQWALyOcABUnjBeAOZMACZwLDxBRGp6Yl5MSFCJoQAsABxSoVgAnnAK0FBlQA) in MiniF2F, what is the simplest way to fix it?

```lean4
import Mathlib
open Nat

theorem amc12a_2020_p21 (S : Finset ℕ)
  (h₀ : ∀ n : ℕ, n ∈ S ↔ 5 ∣ n ∧ Nat.lcm 5! n = 5 * Nat.gcd 10! n) : S.card = 48 := by sorry
```

I attempted to use Python to load this theorem:

```python
statement = """theorem amc12a_2020_p21 (S : Finset ℕ)
    (h₀ : ∀ n : ℕ, n ∈ S ↔ 5 ∣ n ∧ Nat.lcm 5! n = 5 * Nat.gcd 10! n) : S.card = 48 := by sorry"""

server_by_load_header.load_sorry(statement)  # fails
server_by_import.load_sorry(statement)       # fails
```

Both attempts failed with the following error:

```python
[CompilationUnit(i_begin=0, i_end=99, messages=["<anonymous>:2:44: error: unexpected token '!'; expected ')'\n"], invocations=None, goal_state=None, goal_src_boundaries=None, new_constants=None), CompilationUnit(i_begin=99, i_end=149, messages=[], invocations=None, goal_state=None, goal_src_boundaries=None, new_constants=None)]
```

**Comment by RexWzh** [comment]
> this of course will not load because you forgot to write `open Nat` or `open Nat in`. Also I recommend using `:= sorry` instead of `:= by sorry`.

Ahhh, I see. The `open` statement needs to be added as a prefix for each problem rather than placed in the initialization section.
